US04698344
19.9 g (0.1 mole) of ethyl 4-chloro-phenylacetate are heated at 100° C. with 23.8 g (0.2 mole) of dimethylformamide dimethyl acetal for 5 hours. All the volatile constituents are then distilled off at this temperature under a waterpump vacuum. The oily residue, which essentially consists of ethyl α-dimethylaminomethylene-4-chlorophenylacetate, is dissolved, without further purification, in 140 ml of ethanol. 11 g (0.1 mole) of 2-hydrazinopyrimidine and 10 ml of concentrated hydrochloric acid are added. The mixture is heated under reflux for 5 hours, cooled to room temperature and, after addition of 9 g of concentrated sodium hydroxide solution, stirred at room temperature for 5 hours. After neutralization with dilute hydrochloric acid, the mixture is diluted with 1 liter of water. The crystals which have separated out are filtered off with suction, washed with water and dried in air. 7.2 g (26.4% of theory) of 1-pyrimid-2-yl-4-(4-chloro-phenyl)pyrazolin-5-one are obtained. Melting point: 190° to 191° C. (methanol).

reactant | ethyl 4-chloro-phenylacetate | 0.1 mole, 19.9 g | ClC1=CC=C(C=C1)CC(=O)OCC | C10H11ClO2
reactant | dimethylformamide dimethyl acetal | 0.2 mole, 23.8 g | COC(N(C)C)OC | C5H13NO2
reactant | 2-hydrazinopyrimidine | 0.1 mole, 11 g | N(N)C1=NC=CC=N1 | C4H6N4
reactant | sodium hydroxide | 9 g | [OH-].[Na+]
solvent | hydrochloric acid | Cl | ClH
solvent | water | 1 liter | O | H2O
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 1-pyrimid-2-yl-4-(4-chloro-phenyl)pyrazolin-5-one | 7.2 g, 26.4% | N1=C(N=CC=C1)N1NC=C(C1=O)C1=CC=C(C=C1)Cl | C13H9ClN4O
